US06562989B2
N-(4-tert-butylphenyl)-N-methylaniline (Table 5, Entry 4)
According to general procedure B, 4-tert-butylbromobenzene (117 mg, 0.55 mmol) reacted with N-methylaniline (54 mg, 0.50 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene at 100° C. for 2 h to give the title compound (117 mg, 98%): 1H-NMR (300 MHz, CDCl3): δ 7.36 (t, 2H, J=8.1 Hz), 7.29 (t, 2H, J=7.5 and 7.8 Hz), 7.04 (dd, 4H, J=8.1 Hz), 6.94 (t, 1H, J=7.2 Hz and 7.5 Hz), 3.34 (s, 3H), 1.38 (s, 9H). 13C{1H}-NMR (100 MHz, CDCl3): δ 149.17, 146.36, 144.77, 129.02, 126.05, 121.23, 120.18, 118.94, 40.20, 34.18, 31.45. GC/MS(EI): m/z 239 (M+), 224

reactant | 4-tert-butylbromobenzene | 0.55 mmol, 117 mg | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | N-methylaniline | 0.50 mmol, 54 mg | CNC1=CC=CC=C1 | C7H9N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(4-tert-butylphenyl)-N-methylaniline | 117 mg, 98% | C(C)(C)(C)C1=CC=C(C=C1)N(C1=CC=CC=C1)C | C17H21N
